US09193717B2
Step D: (R)-ethyl 3-(4-fluorophenyl)-2-hydroxy-2-(5-(methylsulfonamido)-1H-benzo[d]imidazol-2-yl)propanoate
(R)-ethyl 3-(2-amino-4-(methylsulfonamido)phenylamino)-2-(4-fluorobenzyl)-2-hydroxy-3-oxopropanoate (600 mg, 1.5 mmol) was dissolved in 3 mL of acetic acid and heated at 75° C. for 2 h. The mixture was then concentrated and purified by Combiflash (silica gel column, 8-35% ethyl acetate in hexane) to give the title product.

reactant | (R)-ethyl 3-(2-amino-4-(methylsulfonamido)phenylamino)-2-(4-fluorobenzyl)-2-hydroxy-3-oxopropanoate | 1.5 mmol, 600 mg | NC1=C(C=CC(=C1)NS(=O)(=O)C)NC([C@](C(=O)OCC)(O)CC1=CC=C(C=C1)F)=O | C19H22FN3O6S
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | (R)-ethyl 3-(4-fluorophenyl)-2-hydroxy-2-(5-(methylsulfonamido)-1H-benzo[d]imidazol-2-yl)propanoate | FC1=CC=C(C=C1)C[C@](C(=O)OCC)(C1=NC2=C(N1)C=CC(=C2)NS(=O)(=O)C)O | C19H20FN3O5S
